US07728137B2
Tris(6-(2-methoxyphenyl)-2-pyridyl)phosphine oxide
An efficiently stirred suspension of 38.8 g (75.0 mmol) of tris(2-bromo-6-pyridyl)phosphine oxide, 51.3 g (337.5 mmol) of 2-methoxybenzeneboronic acid and 43.1 g (742.5 mmol) of potassium fluoride in 750 ml of anhydrous THF was admixed with 593 mg (2.93 mmol) of tri-tert-butylphosphine and then with 505 mg (2.25 mmol) of palladium(II) acetate, and subsequently heated under reflux for 16 h. After cooling, the reaction mixture was admixed with 1500 ml of ethyl acetate and 1000 ml of water. The organic phase was removed, washed twice with 500 ml of water and once with 500 ml of sat. sodium chloride solution, and subsequently dried over magnesium sulfate. After the organic phase had been concentrated under reduced pressure (end pressure 1 mbar, temperature 90° C.), 44.3 g (98.5%) of a pale yellow highly viscous oil remained, which was reacted further without purification.

reactant | tris(2-bromo-6-pyridyl)phosphine oxide | 75.0 mmol, 38.8 g | BrC1=NC(=CC=C1)P(C1=CC=CC(=N1)Br)(C1=CC=CC(=N1)Br)=O | C15H9Br3N3OP
reactant | 2-methoxybenzeneboronic acid | 337.5 mmol, 51.3 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | potassium fluoride | 742.5 mmol, 43.1 g | [F-].[K+]
reactant | tri-tert-butylphosphine | 2.93 mmol, 593 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | THF | 750 ml | C1CCOC1 | C4H8O
catalyst | palladium(II) acetate | 2.25 mmol, 505 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 1000 ml | O | H2O
solvent | ethyl acetate | 1500 ml | C(C)(=O)OCC | C4H8O2
product | Tris(6-(2-methoxyphenyl)-2-pyridyl)phosphine oxide | COC1=C(C=CC=C1)C1=CC=CC(=N1)P(C1=NC(=CC=C1)C1=C(C=CC=C1)OC)(C1=NC(=CC=C1)C1=C(C=CC=C1)OC)=O | C36H30N3O4P
